US09416130B2
A solution of 7-(3,5-dimethylisoxazol-4-yl)-6-methoxy-N4-(1-methoxypropan-2-yl)quinoline-3,4-diamine (for a preparation see Intermediate 2) (9.1 g) in DCM (300 ml) was treated with pyridine (30 ml) and tetrahydro-2H-pyran-4-carbonyl chloride (5.0 ml) and the solution stirred under nitrogen at ambient temperature for 3.5 h and then left standing overnight (ambient temperature, under nitrogen). The volatiles were evaporated in vacuo and the residue partitioned between DCM and water. The organic phase was washed with water ×2 and the combined aqueous extracted with DCM. The combined organic phases were washed with brine, dried (hydrophobic frit) and reduced to dryness in vacuo. The combined aqueous including the brine wash (˜pH4) was basified with solid sodium hydrogen carbonate and the aqueous extracted with DCM ×2. The organic fractions were dried (hydrophobic frit), combined with the previous material and reduced to dryness in vacuo to give a brown foam. This foam was further dried in vacuo, triturated with diethyl ether, the suspension chilled (ice/water bath) and the solid isolated by filtration. The solid was washed with a little diethyl ether and air-dried to give N-(7-(3,5-dimethylisoxazol-4-yl)-6-methoxy-4-((1-methoxypropan-2-yl)amino)quinolin-3-yl)tetrahydro-2H-pyran-4-carboxamide as a beige solid (11.95 g, 100%).

reactant | 7-(3,5-dimethylisoxazol-4-yl)-6-methoxy-N4-(1-methoxypropan-2-yl)quinoline-3,4-diamine | CC1=NOC(=C1C1=C(C=C2C(=C(C=NC2=C1)N)NC(COC)C)OC)C | C19H24N4O3
reactant | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
reactant | tetrahydro-2H-pyran-4-carbonyl chloride | 5.0 ml | O1CCC(CC1)C(=O)Cl | C6H9ClO2
solvent | DCM | 300 ml | C(Cl)Cl | CH2Cl2
product | N-(7-(3,5-dimethylisoxazol-4-yl)-6-methoxy-4-((1-methoxypropan-2-yl)amino)quinolin-3-yl)tetrahydro-2H-pyran-4-carboxamide | 11.95 g, 100% | CC1=NOC(=C1C1=C(C=C2C(=C(C=NC2=C1)NC(=O)C1CCOCC1)NC(COC)C)OC)C | C25H32N4O5
